US06831080B2
Preparation of 3-pyridin-2-yl-acrylic acid
A mixture of pyridine-2-carboxaldehyde (32.1 g 0.30 mmol), malonic acid (62.4 g, 0.60 mmol) in pyridine (200 mL) and pyrrolidine (2 mL) was stirred under reflux for 16 hours. The reaction mixture was allowed to cool to room temperature and poured into ice water (200 mL). The aqueous layer was extracted with CH2Cl2 (2×100 mL). The combined organic layer was concentrated in vacuo and the crude material obtained was purified by flash column chromatography on silica using a gradient system of solvents: 1) ethyl acetate (100%); 2) methanol/ethyl acetate (10%). The title product was obtained (6.28 g, 14%) as a grayish-green solid.

reactant | pyridine-2-carboxaldehyde | 0.30 mmol, 32.1 g | N1=C(C=CC=C1)C=O | C6H5NO
reactant | malonic acid | 0.60 mmol, 62.4 g | C(CC(=O)O)(=O)O | C3H4O4
solvent | pyridine | 200 mL | N1=CC=CC=C1 | C5H5N
solvent | pyrrolidine | 2 mL | N1CCCC1 | C4H9N
product | 3-pyridin-2-yl-acrylic acid | N1=C(C=CC=C1)C=CC(=O)O | C8H7NO2
